Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bloody stools
 
Major Surgical or Invasive Procedure:
Flexible Sigmoidoscopy ___

 
History of Present Illness:
Mr. ___ is a ___ y/o man with history
of recently-diagnosed UC who presents with abdominal pain and
bloody diarrhea.

The patient was recently diagnosed with ulcerative colitis in
___ after presenting to ___ office with bloody diarrhea. A
colonoscopy at the time showed severe UC throughout the colon. 
He
was started on prednisone and mesalamine. His prednisone was
initially tapered down and discontinued about 2 weeks ago.
However, around 10 days ago he again began to have abdominal 
pain
and up to 5 blood bowel movements per day. He was seen by GI as
an outpatient on ___ and restarted on prednisone 60 mg daily, 
but
symptoms continued. He called the GI clinic, who recommended 
that
he present to the ED for admission. He also reports he had a
cough for the last few days, chest x-ray recently was within
normal limits.  
 
In the ED, initial vitals: T 102.9, HR 116, BP 104/68, RR 18, 
97%
RA  
- Labs notable for:  
CBC: WBC 18.6, Hgb 14.6, Plt 233  
Lytes:  
 139 / 98 / 8  
 -------------- 102  
 3.8 \ 25 \ 1.2  
Lactate:1.6  
FluAPCR: Negative  
FluBPCR: Negative
  
Imaging notable for a CXR: No acute cardiopulmonary process.

Patient given:
___ 16:41 PO Acetaminophen 1000 mg  
___ 16:41 IV Ondansetron 4 mg  
___ 16:41 IVF LR ( 1000 mL ordered)  
___ 17:35 IV MethylPREDNISolone Sodium Succ 20 mg
  
Vitals prior to transfer: 100.4, HR 105, BP 104/65, RR 20, 96% 
RA

 
On the floor, the patient confirms the above history. Patient
also notes that he has taken several Advil in the last few days
for fevers and muscle aches. He reports that he feels much 
better
since he came into the hospital. He had three blood bowel
movements this morning, but not since then. He has been 
tolerated
a regular diet in the ED. He reports fevers and chills at home.
Also endorses a dry cough. No chest pain, palpitations, 
shortness
of breath. No abdominal pain at present, no nausea. No rashes. 
No
other complaints.  
 
REVIEW OF SYSTEMS: 10 pt review of systems reviewed, negative
except as noted above  
 
 
Past Medical History:
- Ulcerative colitis of entire colon, diagnosed ___  
- Seasonal allergies  
 
 
Social History:
___
Family History:
- Father - CVA and hypertension  
- Mother - healthy  
- No known family history of inflammatory bowel disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.2 103/66 93 18 96 Ra  
General: Sitting in bed, in no acute distress 
HEENT: Sclerae anicteric, MMM, oropharynx clear with no oral
lesions
CV: Tachycardic, no m/r/r
Lungs: CTAB, no w/r/r 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no peripheral edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: AOx3, no focal neurologic deficits 

DISCHARGE PHYSICAL EXAM:
Vitals: ___ ___ Temp: 98.2 PO BP: 106/65 L Lying HR: 66 
RR:
18 O2 sat: 98% O2 delivery: Ra 
HEENT: no scleral icterus
LUNGS: clear to auscultation bilaterally
CV: RRR, normal S1 S2, no murmurs/rubs/gallops
ABD: +BS, soft, non-distended, non-tender.
EXT: warm and well perfused, clubbing of fingers and toes
SKIN: no rashes or excoriations
 
Pertinent Results:
ADMISSION LABS:
================
___:40PM BLOOD WBC-18.6* RBC-5.30 Hgb-14.6 Hct-43.6 
MCV-82 MCH-27.5 MCHC-33.5 RDW-13.1 RDWSD-39.2 Plt ___
___ 03:40PM BLOOD Neuts-73.0* Lymphs-9.9* Monos-10.6 
Eos-1.6 Baso-0.9 Im ___ AbsNeut-13.57* AbsLymp-1.83 
AbsMono-1.96* AbsEos-0.29 AbsBaso-0.16*
___ 04:30AM BLOOD ___ PTT-32.4 ___
___ 03:40PM BLOOD Glucose-102* UreaN-8 Creat-1.2 Na-139 
K-3.8 Cl-98 HCO3-25 AnGap-16
___ 03:40PM BLOOD CRP-172.6*
___ 04:30AM BLOOD CRP-236.1*

IMAGING:
========
___ CXR: The lungs are clear without focal consolidation.  
No pleural effusion or pneumothorax is seen. The cardiac and 
mediastinal silhouettes are unremarkable.

___ CT AP:  
No bowel wall thickening or surrounding fat stranding to suggest 
enteritis or colitis.  No abscess.  Normal appendix.

MICRO/PATHOLOGY:
=================
PATHOLOGY: 1 A. Sigmoid:Active colitis, moderate; no granulomas 
or dysplasia identified.

CLINICAL HISTORY:
Rectal bleed. Ulceration of intestine. 

___ 1:38 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative).

___ 1:38 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      . 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

___ 8:29 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
      MODERATE POLYMORPHONUCLEAR LEUKOCYTES. 

DISCHARGE LABS:
===============
___ 06:26AM BLOOD WBC-21.3* RBC-5.05 Hgb-13.9 Hct-42.7 
MCV-85 MCH-27.5 MCHC-32.6 RDW-13.2 RDWSD-40.5 Plt ___
___ 06:26AM BLOOD Glucose-84 UreaN-22* Creat-1.3* Na-141 
K-4.1 Cl-99 HCO3-28 AnGap-14
___ 06:26AM BLOOD Calcium-8.9 Phos-4.4 Mg-2.4
___ 04:41AM BLOOD CRP-61.9*
 
Brief Hospital Course:
Patient Summary for Admission:
================================
Mr. ___ is a ___ year old male who presented with 10 days of 
worsening diarrhea and initial fever. He underwent flexible 
sigmoidoscopy which demonstrated inflammation consistent with 
UC. He was treated with IV methylprednisolone and once his 
stools improved he was started on Remicade and 40mg PO 
prednisone daily. He was supported symptomatically for a likely 
viral URI.

ACUTE Issues Addressed:
========================
# Ulcerative Colitis Flare: Patient recently diagnosed with UC 
___, and presented with fevers, and bloody bowel movements for 
10 days after recently tapering prednisone, consistent with UC 
flare. GI was consulted and he underwent flexible sigmoidoscopy 
___ with ___ inflammation and findings consistent with 
Ulcerative Colitis. Given his initial CRP of 236 and fever a CT 
AP was completed on ___ to evaluate for potential abscess, 
which was negative for acute processes. Given the concerning for 
UC flare, patient was started on IV Methylprednisolone 20mg Q8H 
with subsequent symptom improvement as demonstrated by patient's 
decreased stool output. He was subsequently started on Remicade 
on ___ and transitioned to 40mg PO prednisone daily. He 
additionally continued his home Mesalamine 2.4g BID. His CRP 
down trended during admission from 236 to 61 prior to discharge. 
Once his symptoms were improved and he was transitioned to PO 
prednisone he was felt safe to be discharged home.

# Leukocytosis, Fever: Likely multifactorial in the setting of 
possible URI (patient presented with cough, fevers but negative 
CXR), UC flare and subsequently elevated in the setting IV 
steroid administration. CXR on admission was negative for acute 
process as well as urine culture. C. Diff testing was negative 
___. Regarding his likely URI, he was treated symptomatically 
with bezonotate and mucinex. At time of discharge WBC 21.3.

# Coagulopathy: INR 1.4 on admission, he received 3 days of 5mg 
PO vitamin K which subsequent improvement of INR to 1.2 
suggesting a component of nutritional deficiency driving 
coagulopathy. 

# Acute Normocytic Anemia: Hemoglobin slowly downtrending from 
admission 14.6 -> 13.2 in setting of GI losses, SBP at baseline. 
He did not require transfusion while inpatient.

TRANSITIONAL ISSUES:
======================
-Hemoglobin at time of discharge 13.9
-WBC at time of discharge 21.3
[]40mg PO prednisone for 1 week until ___, then decrease to 
30mg daily for 7 days (___), 20mg daily from (___). 
Ongoing taper will likely be decreased by 5mg weekly after that 
but will be discussed with Dr. ___ at next visit ___.
[]Patient will received Remicade infusions through infusion 
clinic, next appointment ___ at 2pm in ___ floor 
Infusion clinic
[]NSAIDs should be avoided in this patient as well as opiates.
[]Pending stools studies and blood cultures at time of discharge 
to be followed up by outpatient Gastroenterologist.
[]Duration of steroid taper to be determined by outpatient GI 
provider.

Medication Changes: Prednisone Taper 30mg daily for 7 days 
(___), 20mg daily from (___). Ongoing taper will 
likely be decreased by 5mg weekly after that but will be 
discussed with Dr. ___ at next visit ___.
New Medications: Remicade
Changed Medications: See taper

Code Status: Full Code
HCP: None Chosen

Time spent coordinating discharge > 30 minutes
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 60 mg PO DAILY 
2. Mesalamine ___ 2400 mg PO BID 

 
Discharge Medications:
1.  PredniSONE 30 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0 
2.  PredniSONE 20 mg PO DAILY Duration: 7 Days 
Tapered dose - DOWN 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
3.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*12 Tablet 
Refills:*0 
4.  Mesalamine ___ 2400 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
===================
Ulcerative Colitis
Upper Respiratory Infection

Secondary Diagnosis:
====================
Coagulopathy
Normocytic Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing ___ as your site of care.

Why was I admitted to the hospital?
-You were admitted to the hospital because you were having 
bloody stools and fevers while at home.

What was done for me while I was in the hospital?
-We monitored your blood counts and labs.
-We took an image of your abdomen which did not show acute 
abnormalities.
-You had a procedure called a flexible sigmoidoscopy, which 
demonstrated inflammation in your colon.
-To treat your Ulcerative Colitis we have steroids through an IV 
and started Remicade.
-Once you symptoms improved you were felt safe to be discharged 
home.

What should I do when I go home?
-Please continue taking all your medications at home.
-You will continue taking 40mg PO prednisone for 1 week until 
___, then decrease to 30mg daily for 7 days (___), 20mg 
daily from (___). Ongoing taper will likely be decreased by 
5mg weekly after that but will be discussed with Dr. ___ at 
your next visit.
-You will received your next Remicade infusion as an outpatient 
on ___ at 2pm in ___ ___ floor Infusion clinic.
-If you notice you are having more stools, blood in your stools 
or pain in your abdomen please call your doctor.

We wish you the best,

Your ___ treatment team
 
Followup Instructions:
___